US05593967
α-Methyl-N-[[(1-phenylcyclopentyl)methyl]carbonyl]-DL-tryptophan methyl ester
To a stirred solution of 1-phenyl 1-cyclopentyl methylchloroformate (0.65 g, 2.75 mmol) in dry THF (10 mL) was added a solution of α-methyl-DL-tryptophan methyl ester (0.60 g, 2.5 mmol) followed by triethylamine (0.5 g, 5.0 mmol) in dry THF. The reaction mixture was stirred for 30 minutes and then filtered, concentrated and chromatographed to give an oil (0.9 g, 90%). 1H NMR (200 MHz, CDCl3) δ 8.0 (1H, br s), 7.50 (1H, d, J 7 Hz), 7.40-7.0 (8H, m), 6.6 (1H, br s), 5.35 (1H, br s), 4.15 (2H, s), 3.65 (3H, s), 3.6-3.0 (2H, m), 2.10-1.85 (4H, m), 1.85-1.60 (4H, m), 1.55 (3H, s).

reactant | α-methyl-DL-tryptophan methyl ester | 2.5 mmol, 0.60 g | COC(C(N)(CC1=CNC2=CC=CC=C12)C)=O | C13H16N2O2
reactant | triethylamine | 5.0 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | α-Methyl-N-[[(1-phenylcyclopentyl)methyl]carbonyl]-DL-tryptophan methyl ester | 0.9 g, 90% | COC(C(NC(=O)CC1(CCCC1)C1=CC=CC=C1)(CC1=CNC2=CC=CC=C12)C)=O | C26H30N2O3
